US05130322
A mixture of 1 g of 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-amino-3-chromanol, 10 ml of acetic anhydride and 10 ml of pyridine is allowed to stand at 20° C. for 24 hours. The mixture is evaporated, worked up in the customary manner and 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-acetamido-3-chromanol is obtained.

reactant | 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-amino-3-chromanol | 1 g | COCC1(OC2=CC=C(C=C2C(C1O)N1C(C=CC=C1)=O)N)C | C17H20N2O4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-methoxymethyl-2-methyl-4-(1,2-dihydro-2-oxo-1-pyridyl)-6-acetamido-3-chromanol | COCC1(OC2=CC=C(C=C2C(C1O)N1C(C=CC=C1)=O)NC(C)=O)C | C19H22N2O5
